US04250094
In the manner given in Example 1, 8-chloro-1-(chloromethyl)-6-phenyl-4H-s-triazolo[4,3-a][1,4]benzodiazepine was reacted with methylamine in the presence of sodium iodide to give 8-chloro-1-[(methylamino)methyl]-6-phenyl-4H-s-triazolo[4,3-a][1,4]benzodiazepin of melting point 152°-156° C.

reactant | 8-chloro-1-(chloromethyl)-6-phenyl-4H-s-triazolo[4,3-a][1,4]benzodiazepine | ClC=1C=CC2=C(C(=NCC=3N2C(=NN3)CCl)C3=CC=CC=C3)C1 | C17H12Cl2N4
reactant | methylamine | CN | CH5N
reactant | sodium iodide | [I-].[Na+]
product | 8-chloro-1-[(methylamino)methyl]-6-phenyl-4H-s-triazolo[4,3-a][1,4]benzodiazepin | ClC=1C=CC2=C(C(=NCC=3N2C(=NN3)CNC)C3=CC=CC=C3)C1 | C18H16ClN5
